US05391541
In a flask 48.35 grams (0.191 mole) of iodine was dissolved in 90 mL of dimethyl sulfoxide. To this solution was added 29.47 grams (0.286 mole) of tertiary butyl nitrite. A solution of 39.25 grams (0.191 mole) of 3-amino-2,5-dichlorobenzoic acid in 130 mL of dimethyl sulfoxide was added dropwise to the solution of iodine and butyl nitrite. During this addition the temperature rose from 20° C. to 50° C., at which temperature the addition was stopped until the reaction mixture had cooled to 35° C. The addition was then completed. When the addition was complete, the reaction mixture was stirred for approximately 16 hours, then poured into water, and this mixture was extracted with ethyl acetate. The extracts were combined and washed with an aqueous solution of sodium hydrogen sulfate and finally with water. The combined extracts were dried over anhydrous sodium sulfate and filtered. The solvent was evaporated from the filtrate under reduced pressure, yielding 51.34 grams of 2,5-dichloro-3-iodobenzoic acid as a solid.

reactant | iodine | 0.191 mole, 48.35 grams | II | I2
reactant | tertiary butyl nitrite | 0.286 mole, 29.47 grams | N(=O)OC(C)(C)C | C4H9NO2
reactant | 3-amino-2,5-dichlorobenzoic acid | 0.191 mole, 39.25 grams | NC=1C(=C(C(=O)O)C=C(C1)Cl)Cl | C7H5Cl2NO2
reactant | butyl nitrite | N(=O)OCCCC | C4H9NO2
solvent | dimethyl sulfoxide | 90 mL | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 130 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2,5-dichloro-3-iodobenzoic acid | 51.34 grams | ClC1=C(C(=O)O)C=C(C=C1I)Cl | C7H3Cl2IO2
